US05703071
A solution of 2-hydroxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one (1.15 g, 5.92 mmol) in dimethylformamide (5 ml) was stirred while 60% oily sodium hydride (260 mg, 6.50 mmol) was gradually added thereto. Subsequently, benzyl chloride (1 ml, 8.41 mmol) was added, then the reaction solution was heated at 80° C. for 4 hours. The reaction solution was diluted with dichloromethane, washed with water and dried over sodium sulfate. After solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography [eluent: hexane/ethyl acetate (1:1)] to give 729 mg of 2-benzyloxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one (yield: 43%) as a pale yellowish brown oil.

reactant | 2-hydroxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one | 5.92 mmol, 1.15 g | OC=1C(C(=CC=C(C1)C(C)C)CO)=O | C11H14O3
reactant | sodium hydride | 6.50 mmol, 260 mg | [H-].[Na+]
reactant | benzyl chloride | 8.41 mmol, 1 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-benzyloxy-7-hydroxymethyl-4-isopropyl-2,4,6-cycloheptatrien-1-one | 729 mg, yield: 43% | C(C1=CC=CC=C1)OC=1C(C(=CC=C(C1)C(C)C)CO)=O | C18H20O3
